US04469688
Preparation of alpha-(3-Methyl phenyl)-3-methylbutanoyl acetonitrile
To a solution of 2.99 g (0.13 g. atm) of sodium in 50 ml of absolute ethanol, heated to 60° C., was added 11.81 g (0.09 m) of 3-methyl-benzyl cyanide followed by the slow addition, over a period of 20 minutes of 31.27 g (0.24 m) of ethyl isovalerate. The reaction mixture was heated under reflux overnight (18 hrs.). During this period the color of the solution turned from yellow to dark orange. After approximately 70 ml of solvent and excess of ethyl valerate was removed by distillation, 75 ml of toluene was added and additional 30 ml of the solvent was removed by heating the mixture to 112° C. The reaction mixture was cooled, diluted with 100 ml of toluene and was washed twice with water. The aqueous extracts were combined and acidified with 6N hydrochloric acid. The product was extracted in 300 ml of methylene chloride. The organic extract was washed with water, dried over magnesium sulfate and was concentrated under vacuum to afford 18.56 g of orange colored oil. Crystallization from ethyl acetate hexane solution afforded 14.0 g. of a white solid. m.p. 46.5°-50° C.

reactant | sodium | 2.99 g | [Na] | Na
reactant | 3-methyl-benzyl cyanide | 11.81 g | CC=1C=C(CC#N)C=CC1 | C9H9N
reactant | ethyl isovalerate | 31.27 g | C(CC(C)C)(=O)OCC | C7H14O2
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | alpha-(3-Methyl phenyl)-3-methylbutanoyl acetonitrile | 18.56 g | CC=1C=C(C=CC1)C(C#N)C(CC(C)C)=O | C14H17NO
